Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo M w/hx of DVT, hyponatremia, and chronic 
pancreatic abnormalitiy of unknown etiology presenting with 
lower abdominal pain and diarrhea. His symptoms began with 
diarrhea on ___ happening twice a day, was nonbloody.  He 
developed abdominal pain on ___, constant, 
nonradiating, and in the lower central abdomen. His abdominal 
pain progressed over three days to ___, and his diarrhea did 
not improve.  His last bowel movement was yesterday and is 
currently passing gas. He has been able to eat and drink, denies 
any fevers, chills, vomiting, hematemesis, melena, hematochezia, 
travel, sick contacts, food ingestion.  He finished triple 
therapy for H. Pylori 1 month ago. He did endorse urinary 
hesitancy, no dysuria. He has no history of alcohol use, did 
smoke with 2.5 pack years.  

On arrival to the ED, initial vitals were: T97.8 HR84 BP136/84 
RR16 O296% ra. Exam notable for mild diffuse ttp, no 
rebound/guarding. Labs notable for: ALT 87 AP 60 Tbili: 0.2 Na: 
129 BUN/crea: ___ Lip: 171 WBC: 8.2. CT abdomen showed 
pancreatitis of body and tail and likely distal splenic vein 
thrombosis. In ED, patient received  Morphine 5 mg IV, 4mg 
zofran, and 2L IV NS. Patient evaluated by ACS who recommended 
admission to medicine for suspected pancreatitis. VS prior to 
transfer: 98.3 76 116/72 14 100% RA. 

Currently, he is feeling ___ abdominal pain, which he calls 
comfortable.  It is in the center lower abdomen, nonradiating.  
He denies any vomiting, fevers, chills, or SOB.

Of note, he has had a 25 lb weight loss since ___ and has had 
a poor appetite.  He has some chronic symptoms that began with 
constipation.  Sometime in ___ he was admitted to the ___ 
for hyponatremia and was found to have a chronic pancreatic 
abnormality of unknown etiology s/p biopsy, colonoscopy, and 
endoscopy.  He also had a DVT that he is on Lovenox for 
currently.  He expresses some chronic lower abdominal pain that 
sometimes involves testicular pain.
 
ROS: per HPI, denies fever, chills, night sweats, vision 
changes,  shortness of breath, chest pain, vomiting, BRBPR, 
melena, hematochezia, dysuria, hematuria. Did endorse headache.

 
Past Medical History:
pancreatic mass s/p biopsy, colonoscopy, and endoscopy, the most 
recent endoscopy in ___
H pylori gastritis s/p triple therapy 1 month ago 
DVT in ___
Diabetes Mellitus (reported by patient, on no therapy)

 
Social History:
___
Family History:
Denies any family history of pancreatic or other GI disease, 
cancer, or autoimmune disease

 
Physical Exam:
======================
Admission Physical Exam
======================
VS - Temp 97.8F, BP 125/62, HR 106, R 18, O2-sat 98% RA  
General: NAD, appears comfortable
HEENT: normocephalic, no scleral icterus, OP clear. 
Neck: supple, no cervical ___.
CV:  regular rhymthm, tachycardic, nl S1 S2, no r/m/g 
appreciated.
Lungs: CTAB, no rales
Abdomen: +BS.Soft,nondistended,tender to palpation in the 
central lower abdomen and epigastric regions, worse in lower 
abdomen. ___ and Grey-Turner's signs negative.  No fluid 
wave. No hepatosplenomegaly. No rebound or guarding.
GU: no Foley. No LAD,no testicular pain to palpation. No CVA 
tenderness.
Ext: WWP, +2 pulses. No pedal edema. 
Neuro: A+Ox3, attentive. Memory intact. Motor and sensory 
function grossly intact.
Skin: no rashes. No spider angiomata.

=====================
Discharge Physical Exam
=====================
VS- 98.7 119/72 83 18 95RA
General: NAD, appears comfortable
HEENT: no scleral icterus 
CV: regular rhythm, normal rate, S1 and S2 clear and of good 
quality, no r/m/g appreciated.
Lungs: CTAB bilaterally with good air movement. 
Abdomen: +BS. Soft, non-tender, slightly distended. No rebound 
or guarding.
Extremities: Warm and well perfused with 2+ DP pulses, no 
cyanosis, edema, or excoriations.
Neuro: A+Ox3, attentive. 

 
Pertinent Results:
=============================
Admission labs
=============================
___ 12:45AM BLOOD WBC-8.2 RBC-4.53* Hgb-12.4* Hct-40.2 
MCV-89 MCH-27.4 MCHC-30.9* RDW-12.3 Plt ___
___ 12:45AM BLOOD Neuts-59.0 ___ Monos-7.6 Eos-2.0 
Baso-0.5
___ 12:45AM BLOOD Plt ___
___ 10:30AM BLOOD Glucose-110* UreaN-4* Creat-0.4* Na-134 
K-4.1 Cl-99 HCO3-27 AnGap-12
___ 12:45AM BLOOD Glucose-151* UreaN-6 Creat-0.6 Na-129* 
K-4.5 Cl-97 HCO3-27 AnGap-10
___ 12:45AM BLOOD ALT-87* AST-35 AlkPhos-60 TotBili-0.2
___ 12:45AM BLOOD Lipase-171*
___ 10:30AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.8
___ 12:45AM BLOOD Albumin-4.4 Calcium-8.9 Phos-4.3 Mg-2.0
___ 12:45AM BLOOD Osmolal-266*
___ 08:06PM BLOOD CA ___ -Test  
================
Imaging
================
CT Abd/Pelv w/Contrast ___: IMPRESSION:  
 
1.  Pancreatitis most prominent in the body and tail of the 
pancreas with
areas of pancreatic parenchymal hypoenhancement in the body and 
tail,
concerning for edema or impending pancreatic necrosis, involving 
less than ___ of the gland. The areas of hypodensity in the 
pancreas are round and focal lesions cannot be excluded. No 
peripancreatic fluid collection.  The splenic vein is attenuated 
proximally and likely narrowed in the region adjacent to the 
body and tail of the pancreas.
 
2.  Multiple bilateral solid and ground glass nodules throughout 
both lung
bases most likely represents infection, however, further 
characterization withdedicated chest CT could be considered on a 
non-emergent basis to exclude the possibility of malignancy.

==================
Discharge Results
==================   
___ 07:15AM BLOOD Hct-38.3*
___ 07:10AM BLOOD Na-132* K-3.9 Cl-97
___ 07:10AM BLOOD ALT-149* AST-50* AlkPhos-87 TotBili-0.4
 
Brief Hospital Course:
Mr. ___ is a ___ yo M with hx of DVT, hyponatremia, and 
pancreatic mass suggestive of malignancy presenting with 
pancreatitis secondary to pancreatic mass.
  
# Pancreatitis: Patient was treated conservatively for 
pancreatitis. Morphine IV administered for pain control, he 
remained NPO and given intravenous fluids. Diet was advanced 
slowly once pain resolved and prior to discharge was tolerating 
food and fluids without pain. Started pancreatic enzymes for 
diarrhea.  He remained hemodynamically stable throughout.
   
# Pancreatic mass: FNA biopsy at outside hospital suggests 
adenocarcinoma versus neuroendocrine tumor. Records from ___ 
including MRI showed pancreatic ductal mass and PET with uptake 
in the lungs. Chest CT with nodules suggestive of metastatic 
disease.  The oncology team was consulted, and additional biopsy 
was recommended however can be completed in the outpatient 
setting. ___ was consulted and will set patient up for biopsy 
post discharge. 
  
# Hyponatremia: Secondary to SIADH given low sodium with 
euvolemia, elevated urine sodium, and improvement of sodium with 
fluid restriction. He has a history of SIADH and presented with 
a sodium of 129 that improved over the course of his admission 
with fluid restriction. He had no neurologic symptoms at any 
point during his admission.
   
# Splenic vein thrombosis: Imaging findings were suggestive of 
splenic vein thrombosis, which based on prior ___ imaging is 
chronic.  He was maintained on his home Lovenox dose.
     
==================
Transitions of Care
==================
- To undergo outpatient retroperitoneal lymph node biopsy for 
final diagnosis of his pancreatic mass
- Oncology outpatient eval to determine next treatment steps
- Follow up with PCP regarding ___ enzyme titration to 
help with diarrhea
- Follow up with PCP regarding BPH
- Monitor Hyponatremia
- Code Status: Full code
- Additional contact: Brother ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 

 
Discharge Medications:
1. Pancrelipase 5000 1 CAP PO TID W/MEALS 
Please talk with your doctors about ___ the medicine to 
help with diarrhea. 
RX *lipase-protease-amylase [Pancrelipase 5000] 5,000 
unit-17,000 unit-27,000 unit 1 capsule(s) by mouth three times a 
day Disp #*90 Capsule Refills:*0
2. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: First Routine Administration Time 
3. Tamsulosin 0.4 mg PO HS 
Follow up with your primary care doctor about this medication 
and your symptoms. 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0
4. Benzonatate 100 mg PO TID:PRN Cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active:
- Pancreatitis
- Pancreatic malignancy
  
Chronic:
- Pancreatic cancer
- Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
   
You were admitted to the hospital because of abdominal pain and 
diarrhea caused by inflammation of your pancreas.  You received 
fluids and pain medication and improved. You were tolerating 
food and liquids by mouth at discharge.  You were given some 
pancreatic enzymes to help with the diarrhea. 
   
We acquired records from the ___, which along with your 
symptoms of weight loss are concerning for cancer. We scheduled 
an outpatient biopsy of a lymph node for you. It is very 
important that you have that procedure done and follow up with 
the oncologists to continue your care. You were complaining of 
some tenderness around your bladder and some difficulty 
initiating urination, so you were starting on a medication to 
help with that and should follow up with your primary care 
doctor. Thank you for having us be a part of your care team.
 
The Interventional Radiology team will be contacting you to 
schedule an appointment for your biopsy. If you do not hear by 
___ next week please call the floor ___
 
Followup Instructions:
___